US06310086B1
(R)-3-[5-[2-[N-(tert-Butoxycarbonyl)-N-[2-(2-ethoxy-phenoxy)ethyl]amino]propyl]-7-carbamoyl-1H-indol-1-yl]propyl pivalate (7.81 g) was dissolved in isopropanol (78 ml), and concentrated hydrochloric acid (39 ml) was added dropwise over a period of 10 minutes to the solution under ice-cooling with stirring. After the mixture was stirred for 4 hours at room temperature, the reaction mixture was adjusted to pH 8 by adding sodium bicarbonate powder under ice-cooling with stirring. The mixture was diluted with water (200 ml) and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous sodium bicarbonate solution, water and brine subsequently, and dried over anhydrous sodium sulfate. The solvent was removed in vacuo, and the residue was purified by column chromatography on aminopropyl silica gel (eluent: ethyl acetate) and recrystallized from diethyl ether/hexane(2/1) to give (R)-3-[7-carbamoyl-5-[2-[[2-(2-ethoxyphenoxy)ethyl]amino]propyl]-1H-indol-1-yl]propyl pivalate (5.21 g) as colorless crystals.

reactant | (R)-3-[5-[2-[N-(tert-Butoxycarbonyl)-N-[2-(2-ethoxy-phenoxy)ethyl]amino]propyl]-7-carbamoyl-1H-indol-1-yl]propyl pivalate | 7.81 g | C(C(C)(C)C)(=O)OCCCN1C=CC2=CC(=CC(=C12)C(N)=O)C[C@@H](C)N(CCOC1=C(C=CC=C1)OCC)C(=O)OC(C)(C)C | C35H49N3O7
reactant | hydrochloric acid | 39 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | isopropanol | 78 ml | C(C)(C)O | C3H8O
solvent | water | 200 ml | O | H2O
product | (R)-3-[7-carbamoyl-5-[2-[[2-(2-ethoxyphenoxy)ethyl]amino]propyl]-1H-indol-1-yl]propyl pivalate | 5.21 g | C(C(C)(C)C)(=O)OCCCN1C=CC2=CC(=CC(=C12)C(N)=O)C[C@@H](C)NCCOC1=C(C=CC=C1)OCC | C30H41N3O5
